US08466186B2
(a) N-(4-Chloro-3-nitro-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide
TBTU (0.44 g, 1.4 mmol) and TEA (0.43 mL, 3.1 mmol) were added to 1-trifluoromethyl-cyclopropanecarboxylic acid (0.19 g, 1.2 mmol) in THF (5 mL). After 10 min at rt 4-chloro-3-nitro-benzylamine (0.23 g, 1.2 mmol) was added to the reaction mixture and stirring was continued overnight. The mixture was concentrated, diluted with EtOAc and washed with sat.aq. NaHCO3-solution, water and brine. The organic layer was dried over Na2SO4 and concentrated to give the subtitle compound.

reactant | TBTU | 1.4 mmol, 0.44 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 1-trifluoromethyl-cyclopropanecarboxylic acid | 1.2 mmol, 0.19 g | FC(C1(CC1)C(=O)O)(F)F | C5H5F3O2
reactant | 4-chloro-3-nitro-benzylamine | 1.2 mmol, 0.23 g | ClC1=C(C=C(CN)C=C1)[N+](=O)[O-] | C7H7ClN2O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-Chloro-3-nitro-benzyl)-1-trifluoromethyl-cyclopropanecarboxamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)[N+](=O)[O-] | C12H10ClF3N2O3
